US08106091B2
Stage 4: Cyclopentyl(2S,4Z)-5-(4-bromophenyl)-2-[(tert-butoxycarbonyl)amino]pent-4-enoate
A mixture of cyclopentyl(2S)-5-(4-bromophenyl)-2-[(tert-butoxycarbonyl)amino]pent-4-ynoate (750 mg, 1.719 mmol), quinoline (41 μl, 3.44 mmol), 5% Pd on CaCO3 (500 mg) was purged with nitrogen. EtOH (60 ml) was added and the mixture was stirred under an atmosphere of H2 at room temperature for 21 hrs. Because of incomplete reaction, the mixture was filtered through Celite, treated with fresh catalyst (500 mg) and stirred under an atmosphere of H2 at room temp for a further 18 hrs. The mixture was filtered through Celite and the filtrate evaporated in vacuo to afford the crude product as a colourless oil. Column purification using 5% EtOAc/isohexane afforded the product (640 mg, 1.416 mmol, 82% yield) as a clear colourless oil. LCMS purity 97%: m/z 439 [M+H]+. 1H NMR showed 8 wt % trans-alkene.

reactant | cyclopentyl(2S)-5-(4-bromophenyl)-2-[(tert-butoxycarbonyl)amino]pent-4-ynoate | 1.719 mmol, 750 mg | BrC1=CC=C(C=C1)C#CC[C@@H](C(=O)OC1CCCC1)NC(=O)OC(C)(C)C | C21H26BrNO4
reactant | quinoline | 3.44 mmol, 41 μl | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Pd | [Pd] | Pd
product | Cyclopentyl(2S,4Z)-5-(4-bromophenyl)-2-[(tert-butoxycarbonyl)amino]pent-4-enoate | 1.416 mmol, 640 mg, 82% yield | BrC1=CC=C(C=C1)\C=C/C[C@@H](C(=O)OC1CCCC1)NC(=O)OC(C)(C)C | C21H28BrNO4
